US04723016
The procedure of Example 1 was followed except that diethylfluorophosphate (0.9 mL, 6.4 mmol) was added by syringe to a slurry of potassium trimethylsilanolate (0.82 g, 6.4 mmol) in dry ether (25 mL) and a 5 h reaction time was used. Potassium diethylphosphate (0.67 g, 54% yield) was isolated as a tan solid: 1H NMR (D2O, DSS) δ 1.2 (t, J=6.9 Hz, CH3, 6H), 3.9 (q, J=6.9 Hz, CH2, 4H).

reactant | diethylfluorophosphate | 6.4 mmol, 0.9 mL | C(C)OP(=O)(OCC)F | C4H10FO3P
reactant | potassium trimethylsilanolate | 6.4 mmol, 0.82 g | C[Si]([O-])(C)C.[K+]
solvent | ether | 25 mL | CCOCC | C4H10O
product | Potassium diethylphosphate | 0.67 g, 54% yield | C(C)OP(=O)(OCC)[O-].[K+] | InChI=1S/C4H11O4P.K/c1-3-7-9(5,6)8-4-2;/h3-4H2,1-2H3,(H,5,6);/q;+1/p-1
